US05439925
(c) 4-Hydroxymethylbenzaldehyde
7.9 g (44 mmol) of the above alcohol and 100 ml of THF are introduced into a round-bottomed flask, 20 ml of hydrochloric acid (1N) are added and the mixture is heated to reflux for 4 h. The reaction medium is evaporated to dryness, the residue is taken up with ethyl ether and saturated sodium bicarbonate solution and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated.

reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-Hydroxymethylbenzaldehyde | OCC1=CC=C(C=O)C=C1 | C8H8O2
